US08580973B2
An amount of 27.6 g (0.269 mol) of 2,2-difluoro-1-chloroethane, 2.16 g (6.73 mmol) of tetra(n-butyl)ammonium bromide and 20 g (0.135 mol) of phthalimide are dissolved in 95 g of N,N-dimethylformamide and treated with 46.96 g (0.336 mol) of potassium carbonate. The reaction mixture is stirred in an autoclave under pressure at 120° C. for 16 h. After the end of the reaction, cooling is carried out to ambient temperature and the solvent is exhaustively removed under vacuum. The remaining residue is treated with 150 ml of water and the solid is filtered off. The filter residue is washed twice with water and the product is dried under vacuum. An amount of 28.5 g of 2-(2,2-difluoroethyl)-1H-isoindole-1,3(2H)-dione with a purity of 97.4% is obtained. This corresponds to a yield of 97.7% of theory.

reactant | 2,2-difluoro-1-chloroethane | 0.269 mol, 27.6 g | FC(CCl)F | C2H3ClF2
reactant | phthalimide | 0.135 mol, 20 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | potassium carbonate | 0.336 mol, 46.96 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra(n-butyl)ammonium bromide | 6.73 mmol, 2.16 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 95 g | CN(C=O)C | C3H7NO
product | 2-(2,2-difluoroethyl)-1H-isoindole-1,3(2H)-dione | 28.5 g, yield of 97.7% | FC(CN1C(C2=CC=CC=C2C1=O)=O)F | C10H7F2NO2
